US07964608B2
3-(3-Chloro-phenyl)-1-cyclohexyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (30 mg) was prepared from 4-cyclohexylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and 1-chloro-3-isocyanato-benzene (0.15 mmol) following general procedure C. LCMS: m/z 436 [M+1]+.

reactant | 4-cyclohexylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCCC1)OC | C19H24N2O3
reactant | 1-chloro-3-isocyanato-benzene | 0.15 mmol | ClC1=CC(=CC=C1)N=C=O | C7H4ClNO
product | 3-(3-Chloro-phenyl)-1-cyclohexyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 30 mg | ClC=1C=C(C=CC1)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)C1CCCCC1)=O | C24H22ClN3O3
